US07268133B2
To a suspension of 3-(4-chlorophenyl)-2-(2-chlorophenyl)-2H-pyrazolo[4,3-d]pyrimidin-7-ol I-2A-1 b (17.55 g, 49.1 mmol) in 1,2-dichloroethane (109 ml) was added N,N-diethylaniline (32.8 ml, 206.22 mmol) followed by POCl3 (70 ml, 0.7 M). The reaction mixture was heated to reflux under nitrogen for 3 hours, and cooled to room temperature. The solvent was removed under reduced pressure. Excess POCl3 was removed by co-evaporation with toluene three times. The residue was dissolved in methylene chloride and slowly poured into vigorously stirred 1:1 CH2Cl2/saturated aqueous NaHCO3 (500 ml). Additional saturated aqueous NaHCO3 was added until the pH of the mixture was adjusted to neutral. The organic layer was separated and the aqueous layer was extracted with 200 ml methylene chloride three times. The organic layers were combined, dried (MgSO4), and concentrated. The residue was purified by SiO2-gel chromatography using 100% CH2Cl2 as the eluant to give 7-chloro-3-(4-chlorophenyl)-2-(2-chlorophenyl)-2H-pyrazolo[4,3-d]pyrimidine I-2A-1c (18.4 g, 76%): MS: 375.0 (M+1)+.

reactant | 3-(4-chlorophenyl)-2-(2-chlorophenyl)-2H-pyrazolo[4,3-d]pyrimidin-7-ol | ClC1=CC=C(C=C1)C=1N(N=C2C1N=CN=C2O)C2=C(C=CC=C2)Cl | C17H10Cl2N4O
reactant | N,N-diethylaniline | 206.22 mmol, 32.8 ml | C(C)N(C1=CC=CC=C1)CC | C10H15N
reactant | POCl3 | 0.7 M, 70 ml | O=P(Cl)(Cl)Cl | Cl3OP
solvent | 1,2-dichloroethane | 109 ml | ClCCCl | C2H4Cl2
product | 7-chloro-3-(4-chlorophenyl)-2-(2-chlorophenyl)-2H-pyrazolo[4,3-d]pyrimidine | 18.4 g, 76% | ClC=1C=2C(N=CN1)=C(N(N2)C2=C(C=CC=C2)Cl)C2=CC=C(C=C2)Cl | C17H9Cl3N4
